US06492416B1
200 mg of 4-bromo-2,2-dimethyl-5-{4-(methylsulfonyl)phenyl}-3(2H)-furanone was coupled with 125 mg of (2-benzo[b]thienyl)boronic acid according to a procedure similar to the procedure in Example 2 to afford 60 mg of 4-(2-benzo[b]thienyl)-2,2-dimethyl-5-{4-(methylsulfonyl)phenyl}-3(2H)-furanone as a solid. mp: 204-206° C. NMR: δ1.61 (s, 6H), 3.11 (s, 3H), 7.32˜7.43 (m, 4H), 7.51˜7.53 (m, 1H), 7.74˜7.84 (m, 2H), 8.01 (s, 2H). IR (cm−1): 1702, 1620, 1382, 1147, 957, 750.

reactant | 4-bromo-2,2-dimethyl-5-{4-(methylsulfonyl)phenyl}-3(2H)-furanone | 200 mg | BrC=1C(C(OC1C1=CC=C(C=C1)S(=O)(=O)C)(C)C)=O | C13H13BrO4S
reactant | (2-benzo[b]thienyl)boronic acid | 125 mg | S1C2=C(C=C1B(O)O)C=CC=C2 | C8H7BO2S
product | 4-(2-benzo[b]thienyl)-2,2-dimethyl-5-{4-(methylsulfonyl)phenyl}-3(2H)-furanone | 60 mg | S1C2=C(C=C1C=1C(C(OC1C1=CC=C(C=C1)S(=O)(=O)C)(C)C)=O)C=CC=C2 | C21H18O4S2
